US08003647B2
5,6-Difluoro-1H-indole-3-carbonitrile
To a solution of 5,6-difluoro-1H-indole-3-carbaldehyde (1.0 g) in tetrahydrofuran (15 ml) were added hydroxylamine hydrochloride (0.81 g) and pyridine (1.9 g), and this mixture was stirred at 80° C. for 8 hours. Acetic anhydride was added to reaction mixture and this mixture was stirred at 80° C. for 8 hours. After cooling to ambient temperature, 2 mol/L aqueous sodium hydroxide solution was added to this mixture and resulting mixture was stirred for 30 minutes. This mixture was poured into 2 mol/L hydrochloric acid and the precipitated solid was collected by filtration, and washed with water and n-hexane. The solid was dissolved in ethyl acetate and this residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.95 g).

reactant | 5,6-difluoro-1H-indole-3-carbaldehyde | 1.0 g | FC=1C=C2C(=CNC2=CC1F)C=O | C9H5F2NO
reactant | hydroxylamine hydrochloride | 0.81 g | Cl.NO
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
product | 5,6-Difluoro-1H-indole-3-carbonitrile | 0.95 g | FC=1C=C2C(=CNC2=CC1F)C#N | C9H4F2N2
